US07642264B2
2-(3-Bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine
The title compound was prepared from 2-chloro-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine (example A.7) (0.50 g, 1.53 mmol) and commercially available 3-bromo-benzene-boronic acid (0.40 g, 1.99 mmol) according to the general procedure IVb. Obtained as a light yellow oil (0.71 g, 83%). MS (EI) 447.7 [(M)+].

reactant | 2-chloro-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine | 1.53 mmol, 0.50 g | ClC1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C(F)(F)F | C11H4Cl3F3N2
reactant | 3-bromo-benzene-boronic acid | 1.99 mmol, 0.40 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
product | 2-(3-Bromo-phenyl)-4-(3,4-dichloro-phenyl)-6-trifluoromethyl-pyrimidine | BrC=1C=C(C=CC1)C1=NC(=CC(=N1)C1=CC(=C(C=C1)Cl)Cl)C(F)(F)F | C17H8BrCl2F3N2
